US04730032
Using a procedure similar to that described in Example 5, 3.4 g (0.016 mol) of 4-aminophenylsulfide was reacted with 6.6 g (0.032 mol) of 3-phenylethynylbenzaldehyde in 75 ml of ethanol. The product precipitates as a yellow solid which was recrystallized from heptane/toluene (8.9 g, 0.015 mol, 94% yield).

reactant | 4-aminophenylsulfide | 0.016 mol, 3.4 g | NC1=CC=C(C=C1)SC1=CC=C(C=C1)N | C12H12N2S
reactant | 3-phenylethynylbenzaldehyde | 0.032 mol, 6.6 g | C1(=CC=CC=C1)C#CC=1C=C(C=O)C=CC1 | C15H10O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | heptane toluene | 0.015 mol, 8.9 g, 94% yield | CCCCCCC.C1(=CC=CC=C1)C | InChI=1S/C7H8.C7H16/c1-7-5-3-2-4-6-7;1-3-5-7-6-4-2/h2-6H,1H3;3-7H2,1-2H3
